US08357693B2
To 2-(3-methoxyphenyl)quinazolin-4(3H)-one (11.6 g, 45.98 mmole) was added of CH2Cl2 (120 mL) and the mixture was cooled to −78° C. Then, a 1 M solution of BBr3 in CH2Cl2 (60 mL, 60.0 mmol) was added drop wise and the reaction was stirred at −78° C. for 1 h and then ambient temperature for 3 h. The reaction was re-cooled to −78° C. and cautiously quenched with MeOH (20 mL). The ice bath was removed and the system allowed to stir at ambient temperature for 0.5 h. The pH was adjusted to 7 with 10% w/w NaHCO3 solution. The solid was filtered, washed with ether, dried and then azeotroped from toluene (3×) and dried under high vacuum overnight to give 2-(3-hydroxyphenyl)quinazolin-4(3H)-one. (11.0 g, mmol, 100%).

reactant | 2-(3-methoxyphenyl)quinazolin-4(3H)-one | 45.98 mmole, 11.6 g | COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(N1)=O | C15H12N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60.0 mmol, 60 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-hydroxyphenyl)quinazolin-4(3H)-one | OC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(N1)=O | C14H10N2O2
